US08614238B2
(1R,3S)-3-Propionylamino-cyclopentanecarboxylic acid N-methyl-N-[4-(1-methyl-1H-benzoimidazol-2-yl)-phenyl]-amide
100.0 mg (0.54 mmol) (1R,3S)-3-Propionylamino-cyclopentanecarboxylic acid (educt IV.1) and 78.6 μL (0.59 mmol) 1-chloro-N,N,2-trimethyl-propenylamine are stirred in 5 mL dry THF at RT for 1 hour. Then this mixture is given to a mixture of 128.1 mg (0.54 mmol) N-methyl-N-[4-(1-methyl-1H-benzoimidazol-2-yl)-phenyl]-amine (educt III.1.a) and 107.0 μL (0.81 mmol) 2,4,6-collidine in DCM at RT. The mixture is stirred over night. The solvent is evaporated. The residue is taken up with water and extracted with DCM. The organic phase is dried and the solvent is evaporated. The residue is triturated with diethyl ether, filtered off and dried.

reactant | (1R,3S)-3-Propionylamino-cyclopentanecarboxylic acid | 0.54 mmol, 100.0 mg | C(CC)(=O)N[C@@H]1C[C@@H](CC1)C(=O)O | C9H15NO3
reactant | 1-chloro-N,N,2-trimethyl-propenylamine | 0.59 mmol, 78.6 μL | ClC(=C(C)C)N(C)C | C6H12ClN
reactant | N-methyl-N-[4-(1-methyl-1H-benzoimidazol-2-yl)-phenyl]-amine | 0.54 mmol, 128.1 mg | CNC1=CC=C(C=C1)C1=NC2=C(N1C)C=CC=C2 | C15H15N3
reactant | 2,4,6-collidine | 0.81 mmol, 107.0 μL | N1=C(C=C(C=C1C)C)C | C8H11N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (1R,3S)-3-Propionylamino-cyclopentanecarboxylic acid N-methyl-N-[4-(1-methyl-1H-benzoimidazol-2-yl)-phenyl]-amide | CN(C(=O)[C@H]1C[C@H](CC1)NC(CC)=O)C1=CC=C(C=C1)C1=NC2=C(N1C)C=CC=C2 | C24H28N4O2
